US06642250B2
To a suspension of sodium hydride (60% in oil, 0.88 g, 22 mmol) in THF (20 ml) was added ethyl diethylphosphonoacetate (4.93 g, 22 mmol) dropwise while ice cooling and the mixture was further stirred at room temperature for 15 minutes and again ice cooled. To the ice cooled mixture was added dropwise a solution of picolinaldehyde (2.14 g, 20 mmol) in THF (10 ml). After the addition, the reaction mixture was heated at 60° C. for 1 hour. Thereafter, the reaction was stopped by treating with 1M aqueous acetic acid. The mixture was diluted with water, and extracted with methylene chloride. The organic layer was treated according to conventional techniques. Evaporation of the solvent yielded a residue which was subjected to recrystallization from hexane to afford ethyl 3-(pyridin-2-yl)-acrylate, yield: 80%.

reactant | sodium hydride | 22 mmol, 0.88 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 22 mmol, 4.93 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | picolinaldehyde | 20 mmol, 2.14 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | acetic acid | 1M | C(C)(=O)O | C2H4O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | ethyl 3-(pyridin-2-yl)-acrylate | yield: 80% | N1=C(C=CC=C1)C=CC(=O)OCC | C10H11NO2
